US05969139
A solution of 1.39 g of 3-amino-5,5-dimethyl-2-cyclohexen-1-one and 793 mg of 4-fluoro-3-chlorobenzaldehyde in 10 ml of absolute ethanol and 1 ml of 1M aqueous hydrochloric acid was heated at reflux under a nitrogen atmosphere for 18 hours. The cooled mixture was filtered and the residue was washed with 25 ml of cold diethyl ether. Crystallization from absolute ethanol/water gave 302 mg of 9-(4-fluoro-3-chlorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione as a pale yellow crystalline solid of melting point 274-275° C. (decomposition).

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | 1.39 g | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-fluoro-3-chlorobenzaldehyde | 793 mg | FC1=C(C=C(C=O)C=C1)Cl | C7H4ClFO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1M, 1 ml | Cl | ClH
product | 9-(4-fluoro-3-chlorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | 302 mg | FC1=C(C=C(C=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O)Cl | C23H25ClFNO2
